US09108946B2
N-(3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethyl-3-((3,3,3-trifluoropropyl)thio)propanamide (Compound 8.5)
A 100 mL, 3-neck round bottom flask, equipped with mechanical stirrer, temperature probe and nitrogen inlet was charged with cesium carbonate (654 mg, 2.01 mmol), N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-((3,3,3-trifluoropropyl)thio)propanamide (380 mg, 1.00 mmol) and N,N-dimethylformamide (5 mL). Iodoethane (0.0890 mL, 1.10 mmol) was added dropwise. The reaction was stirred at 40° C. for 2 hours, at which point thin layer chromatography analysis (Eluent: ethyl acetate) indicated that only a trace of starting material remained. The reaction mixture was cooled to 20° C. and water (20 mL) was added. It was extracted with ethyl acetate (2×20 mL) and the combined organic layer was concentrated to dryness at <40° C. The residue was purified by flash column chromatography using 0-100% ethyl acetate/hexanes as eluent. The fractions containing pure product were concentrated to dryness to afford a colorless oil (270 mg, 66%): mp 79-81° C.; 1H NMR (400 MHz, DMSO-d6) δ 9.11 (d, J=2.7 Hz, 1H), 8.97 (s, 1H), 8.60 (dd, J=4.8, 1.4 Hz, 1H), 8.24 (ddd, J=8.4, 2.8, 1.4 Hz, 1H), 7.60 (ddd, J=8.4, 4.7, 0.8 Hz, 1H), 3.62 (q, J=7.1 Hz, 2H), 2.75 (t, J=7.0 Hz, 2H), 2.66-2.57 (m 2H), 2.57-2.44 (m, 2H), 2.41 (t, J=7.0 Hz, 2H), 1.08 (t, J=7.1 Hz, 3H); EIMS m/z 406 ([M]+).

reactant | cesium carbonate | 2.01 mmol, 654 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-3-((3,3,3-trifluoropropyl)thio)propanamide | 1.00 mmol, 380 mg | ClC1=NN(C=C1NC(CCSCCC(F)(F)F)=O)C=1C=NC=CC1 | C14H14ClF3N4OS
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | Iodoethane | 1.10 mmol, 0.0890 mL | ICC | C2H5I
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-N-ethyl-3-((3,3,3-trifluoropropyl)thio)propanamide | 270 mg, 66% | ClC1=NN(C=C1N(C(CCSCCC(F)(F)F)=O)CC)C=1C=NC=CC1 | C16H18ClF3N4OS
